US07253165B2
Synthesis of (R)-1-(4-benzo[b]thiophen-3-yl-phenoxy)-3-(4-pyrimidin-2-yl-piperazin-1-yl)-propan-2-ol (Scheme III, Compound 1)
Combine 2-(4-benzo[b]thiophen-3-yl-phenoxymethyl)-oxirane (200 mg, 0.708 mmol), 2-piperazin-1-yl-pyrimidine (465 mg, 2.83 mmol) and ethanol (4 mL). Apply heat (75° C.) to the homogeneous reaction mixtures and stir for 6 hours. Concentrate (in vacuo) and purify by column chromatography using a Waters Sep-Pak silica gel cartridge (10 g) and elution with graded solvent mixtures from 50% ethyl acetate in heptane to 100% ethyl acetate. Concentrate the appropriate fractions, dissolve in dichloromethane and re-evaporate under a stream of nitrogen. Dry the sample using medium heat and reduced pressure to give the title compound as a clear oil (0.285 mg, 90% Yield). Purity by LC/MS=99%, [M+H]+=447.

reactant | 2-(4-benzo[b]thiophen-3-yl-phenoxymethyl)-oxirane | 0.708 mmol, 200 mg | S1C2=C(C(=C1)C1=CC=C(OCC3OC3)C=C1)C=CC=C2 | C17H14O2S
reactant | 2-piperazin-1-yl-pyrimidine | 2.83 mmol, 465 mg | N1(CCNCC1)C1=NC=CC=N1 | C8H12N4
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | (R)-1-(4-benzo[b]thiophen-3-yl-phenoxy)-3-(4-pyrimidin-2-yl-piperazin-1-yl)-propan-2-ol | 0.285 mg, 90% Yield | S1C2=C(C(=C1)C1=CC=C(OC[C@@H](CN3CCN(CC3)C3=NC=CC=N3)O)C=C1)C=CC=C2 | C25H26N4O2S
